US08754234B2
The 5-bromo-2-({[5-(difluoromethoxy)-1-methyl-3-(trifluoromethyl)-1H-pyrazol-4-yl]methyl}sulfanyl)-1,3-thiazole obtained in this manner (4.0 g, 9.429 mmol) is initially charged in 100 ml of toluene. With stirring, 3-chloroperbenzoic acid (1.976 g, 8.015 mmol, 77% pure) is then added a little at a time, and the mixture is stirred at room temperature for a further 4 hours. For work-up, the reaction mixture is washed successively with water, aqueous NaHSO3 solution, aqueous NaHCO3 solution and finally with NaCl solution. The organic phase is dried over magnesium sulfate, filtered off and concentrated. The residue is triturated with n-heptane, filtered off and dried. The racemic 5-bromo-2-({[5-(difluoromethoxy)-1-methyl-3-(trifluoromethyl)-1H-pyrazol-4-yl]methyl}sulfinyl)-1,3-thiazole obtained (3.75 g) is purified by preparative chiral HPLC (column: Chiralcel® OD; mobile phase: n-hexane/2-propanol 90:10; flow rate: 0.6 ml/min; column temperature: 25° C.) and separated into the enantiomers. This gives 1.505 g (36.2% of theory) of 5-bromo-2-[(S)-{[5-(difluoromethoxy)-1-methyl-3-(trifluoromethyl)-1H-pyrazol-4-yl]methyl}sulfinyl]-1,3-thiazole (Rt=10.258 min) and 1.305 g (31.4% of theory) of 5-bromo-2-[(R)-{[5-(difluoromethoxy)-1-methyl-3-(trifluoromethyl)-1H-pyrazol-4-yl]methyl}sulfinyl]-1,3-thiazole (Rt=12.557 min).

reactant | 5-bromo-2-({[5-(difluoromethoxy)-1-methyl-3-(trifluoromethyl)-1H-pyrazol-4-yl]methyl}sulfanyl)-1,3-thiazole | BrC1=CN=C(S1)SCC=1C(=NN(C1OC(F)F)C)C(F)(F)F | C10H7BrF5N3OS2
reactant | 3-chloroperbenzoic acid | 8.015 mmol, 1.976 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | racemic 5-bromo-2-({[5-(difluoromethoxy)-1-methyl-3-(trifluoromethyl)-1H-pyrazol-4-yl]methyl}sulfinyl)-1,3-thiazole | BrC1=CN=C(S1)S(=O)CC=1C(=NN(C1OC(F)F)C)C(F)(F)F | C10H7BrF5N3O2S2
